Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Right  facial droop and dysarthria 
 
Major Surgical or Invasive Procedure:
tPA administration at outside hospital

 
History of Present Illness:
HPI: Historical info obtained from pt and documentation.
Pt is a ___ yr M w/ PMH of HTN and HLD who presented w/ R facial
droop and dysarthria. Per pt, he woke up this morning noting a
mild frontal headache. Later in the morning, while at ___
he noticed that he had a R facial droop and began to experience
numbness in tongue and back of throat, resulting in difficulty
physically producing speech. He presented to ___ 
where he received tPA at 11:15 for NIHSS of 2. He was 
transferred
to ___ for post-tPA management where he noted that his facial
droop had improved since initial presentation. Continues to have
mild frontal headache.

Neurologic and general ROS negative

 
Past Medical History:
HTN
HLD (pt reports non-compliance with home statin)

 
Social History:
___
Family History:
Family Hx:
Hx of strokes in paternal uncle and paternal grandfather

 
Physical ___:
ADMISSION PHYSICAL EXAM: 
Physical Exam:
Vitals: T: 98.8 P: 73 R: 20  BP: 145/78 SaO2: 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech mildly dysarthric. Able to 
follow
both midline and appendicular commands. Pt was able to register 
3
objects and recall ___ at 5 minutes. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: Decreased activation of R facies, facial musculature
assymmetric. R NLFF.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

DISCHARGE PHYSICAL EXAM: 
Vitals: 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Speech less dysarthric today. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Very slight decreased activation of the left , otherwise 
symmetric at rest. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

 
Pertinent Results:
Hematology 
 COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 05:35AM    9.1 5.02 15.0 45.7 91 29.9 32.8 12.8 42.3 
254 Import Result 

 
___ 07:05AM    10.8* 4.98 14.8 45.0 90 29.7 32.9 12.7 
42.1 250 Import Result 

 
___ 12:00PM    8.0 5.21 15.2 47.1 90 29.2 32.3 12.5 41.3 
280 Import Result 

 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 12:00PM    69.2   19.6 8.9 1.4 0.5     0.4 5.55 1.57 
0.71 0.11 0.04 Import Result 

 
 BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 05:35AM        254   Import Result 

 
___ 07:05AM        250   Import Result 

 
___ 07:05AM    11.5 29.4   1.1 Import Result 

 
___ 12:00PM        280   Import Result 

 
___ 12:00PM    10.0 30.0   0.9 Import Result 

 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 05:35AM    101* 21* 1.0 138 4.5 100 25 18 Import 
Result 

 
___ 07:05AM    102* 21* 1.0 136 4.4 ___ Import 
Result 

 
___ 12:00PM    103* 18 1.1 139 4.6 ___ Import 
Result 

 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 12:00PM    Using this Import Result 

 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 07:05AM    17 18 168 143 97   0.9   Import Result 

 
 CPK ISOENZYMES cTropnT 
___ 07:05AM    <0.01 Import Result 

 
___ 12:00PM    <0.01 Import Result 

 
 CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
Cholest 
___ 05:35AM          9.5 3.7 2.1       Import Result 

 
___ 07:05AM      4.1             213* Import Result 

 
___ 12:00PM          10.2 3.0 2.1       Import Result 

 
 DIABETES MONITORING %HbA1c eAG 
___ 07:05AM    5.1 100 Import Result 

 
 LIPID/CHOLESTEROL Triglyc HDL CHOL/HD LDLcalc 
___ 07:05AM    219* 51 4.2 118 Import Result 

 
 PITUITARY ___ 
___ 07:05AM    7.0* Import Result 

 
 THYROID Free T4 
___ 05:35AM    PND Import Result 

 
 TOXICOLOGY, SERUM AND OTHER DRUGS ASA Ethanol Acetmnp Bnzodzp 
Barbitr Tricycl 
___ 12:00PM    NEG NEG NEG NEG NEG NEG Import Result 

 
 LAB USE ONLY 
___ 05:35AM    Import Result 

 
___ 07:05AM    Import Result 

 
___ 12:00PM    Import Result 

 
___ 12:00PM    Import Result 

 
 

Blood Gas 
 WHOLE BLOOD, MISCELLANEOUS CHEMISTRY Lactate 
___ 12:08PM    1.6 Import Result 
 
IMAGING: 
 
CTA Head and Neck: 
1. No evidence of hemorrhage, edema, mass effect, or acute 
infarction. 
2. Unremarkable head and neck CTA.

ECHOCARDIOGRAM
1. Normal study. Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function. 
No valvular pathology or pathologic flow identified. No definite 
structural cardiac source of embolism identified.

CT HEAD s/p 24 hours TPA: 
1. Chronic right putaminal and external capsule lacune with no 
evidence of 
hemorrhage or new infarction. 

MRI head without Contrast:
1. Probable chronic lacune involving the lateral portion of the 
right 
putaminal and the adjacent external capsule.  Otherwise normal 
study. 

 
Brief Hospital Course:
The patient is a ___ man who was admitted s/p tPA given 
at an outside hospital for right facial droop and dysarthria. 

Neurologic Work-up: 
The patient was admitted to the stroke team for further 
evaluation. 
The patient did not have further neurologic sequelae or develop 
new symptoms after the tPA treatment. 
24 hour imaging revealed chronic infarct with no hemorrhage , or 
acute ischemia seen. Likely, the patient was suffering from a 
TIA vs. the patient had a soft clot that was dissolved by the 
tPA. 
The patient also had an ECHO which did not reveal any structural 
causes for cardiac embolus. 
Patient worked with ___ and was able to complete all of the 
trainings and tasks, and was cleared to return home. 
Patient tolerated aspirin 81mg but did not wish to take 
atorvastatin based on his worries of sexual side effects. He 
will continue to take his home dose of pravastatin. 

Of note, the patient's TSH returned elevated to 7.0. Free T4 was 
pending. 
The patient can follow-up with his primary care physician for 
further evaluation. 

The patient had resolution of his neurologic symptoms with 
slight left facial nasolabial fold flattening as the only 
visible deficit. The patient has a neurology stroke follow-up in 
3 months for further assessment. 

Core Measures: 
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 118) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - () N/A  

Transitions of Care Issues:

1. Elevated TSH to 7.0. Follow up with primary care physician
2. Patient opted to take his own home dose of pravastatin and 
not to transition to high intensity statin. 
3. Stroke follow-up appointment. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth DAILY Disp #*60 Tablet 
Refills:*3 
2.  Lisinopril 10 mg PO DAILY  
3.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke s/p tPA

 
Discharge Condition:
Stable. 
Mental status intact, alert, oriented, language intact.  
Ambulates well with no assistance necessary

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of facial droop and 
slurred speech resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
High Blood Pressure
High Cholesterol 
  
We are changing your medications as follows:  
1. Aspirin 81 mg daily
2. Atorvastatin 80mg daily 
  
Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

 
Followup Instructions:
___